US06699879B1
2-(4-Methoxy-phenoxy)-5-nitro-benzoic acid (2.5 g), (DE 2058295) in methanol (75 ml) containing conc. sulfuric acid (3 drops) was boiled for 16 h. Solvent was removed at reduced pressure, the residue dissolved in ethyl acetate and washed with aqueous sodium hydrogen carbonate. The organic phase was dried (Na2SO4) and solvent removed at reduced pressure to give 2-(4-methoxy-phenoxy)-5-nitro-benzoic acid methyl ester (2.50 g). m/z (API+): 304 (MH+).

reactant | 2-(4-Methoxy-phenoxy)-5-nitro-benzoic acid | 2.5 g | COC1=CC=C(OC2=C(C(=O)O)C=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO6
reactant | methanol | 75 ml | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 2-(4-methoxy-phenoxy)-5-nitro-benzoic acid methyl ester | 2.50 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC=C(C=C1)OC)=O | C15H13NO6
